US04470986
A solution of 2-aminomethyl-4-(3-chloropropyl)pyridine (0.47 g) in 1 ml of formic acid is heated at 90° for 18 hours, cooled to 0° and made basic by the addition of saturated ammonium hydroxide solution. Extraction with methylene chloride (4×10 ml), drying over sodium sulfate and evaporation yields 2-(N-formylaminomethyl)-4-(3-chloropropyl)pyridine (IR 1674 cm-1) which is heated at 90° in phosphorus oxychloride (0.75 g) for 15 hours. Excess phosphorus oxychloride is evaporated with toluene and the residue is suspended in methylene chloride (15 ml), cooled to 0° and made basic with saturated ammonium hydroxide. Extraction with methylene chloride (4×15 ml), drying over sodium sulfate and preparative thin layer chromatography (silica gel, EtOAc) of the residue yields 7-(3-chloropropyl)-imidazo[1,5-a]pyridine (Rf=0.24, EtOAc) as a gum; NMR (CDCl3) 3.58 (t, 2H), 6.42 (q. 1H), 7.21 (s, 1H), 7.32 (s, 1H), 7.88 (d, 1H, 8.07 (s, 1H).

reactant | 2-aminomethyl-4-(3-chloropropyl)pyridine | 0.47 g | NCC1=NC=CC(=C1)CCCCl | C9H13ClN2
reactant | ammonium hydroxide | [OH-].[NH4+]
reactant | formic acid | 1 ml | C(=O)O | CH2O2
product | 2-(N-formylaminomethyl)-4-(3-chloropropyl)pyridine | C(=O)NCC1=NC=CC(=C1)CCCCl | C10H13ClN2O
